US08309540B2
Step 3: 6-Bromo-2-ethoxy-7-methoxyquinolin-4-ol
A solution of ethyl (3E)-3-[(4-bromo-3-methoxyphenyl)imino]-3-ethoxypropanoate (30.0 g, 87 mmol) in DOWTHERM (30 mL) was added to a stirred solution of DOWTHERM (300 mL) at 250° C. The resulting solution was stirred at 250° C. for 5 minutes, cooled to RT and filtered, and the cake was washed with hexane (3×50 mL), then dried to give the title product. 1H NMR (400 MHz, CD3OD) δ 8.25 (s, 1H); 6.92 (s, 1H); 5.80 (s, 1H); 4.27 (q, J=7.1 Hz, 2H); 3.97 (s, 3H); 1.46 (t, J=7.0 Hz, 3H) ppm. LRMS (ESI) m/z 298.0 [(M+H)+; calcd for C12H13BrNO3: 298.0].

reactant | ethyl (3E)-3-[(4-bromo-3-methoxyphenyl)imino]-3-ethoxypropanoate | 87 mmol, 30.0 g | BrC1=C(C=C(C=C1)\N=C(/CC(=O)OCC)\OCC)OC | C14H18BrNO4
solvent | DOWTHERM | 30 mL | C1=CC=C(C=C1)C2=CC=CC=C2.C1=CC=C(C=C1)OC2=CC=CC=C2
solvent | DOWTHERM | 300 mL | C1=CC=C(C=C1)C2=CC=CC=C2.C1=CC=C(C=C1)OC2=CC=CC=C2
product | 6-Bromo-2-ethoxy-7-methoxyquinolin-4-ol | BrC=1C=C2C(=CC(=NC2=CC1OC)OCC)O | C12H12BrNO3
